US07572809B2
d) Preparation of (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine
3-(5-Methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one (7.4 g, 0.03 mol) and POCl3 (80 ml) were sealed in 4 bottles (20 ml). The mixture was heated at 130° C. for 15 minutes under microwave irradiation. The mixture was concentrated, and the residue was treated with 15 ml MeOH. The mixture was stirred for 2 hours at room temperature, and the solid was collected and dried to give desired product (4.7 g, 61% yield). LC-MS: 259 (MH+)

reactant | 3-(5-Methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one | 0.03 mol, 7.4 g | CC1=CC(=NN1)NC=1NC(C2=CC=CC=C2C1)=O | C13H12N4O
reactant | POCl3 | 80 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 4.7 g, 61% yield | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
